US07728030B2
tert-butyl (1R,2S)-1-hydroxy-1-m-tolylpropan-2-ylcarbamate (24c)
The subtitle compound was prepared in two steps analogous to the methods described in Example 19 (step 19c+19d). Starting from (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate (2.323 g, 10 mmol), and m-tolylmagnesium bromide 1.0M solution in THF (12.00 mL, 12.00 mmol). Yield 2.33 g (88%)

reactant | (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate | 10 mmol, 2.323 g | CON(C([C@H](C)NC(OC(C)(C)C)=O)=O)C | C10H20N2O4
reactant | m-tolylmagnesium bromide | 1.0M | C1(=CC(=CC=C1)[Mg]Br)C
reactant | THF | 12.00 mmol, 12.00 mL | C1CCOC1 | C4H8O
product | tert-butyl (1R,2S)-1-hydroxy-1-m-tolylpropan-2-ylcarbamate | O[C@@H]([C@H](C)NC(OC(C)(C)C)=O)C=1C=C(C=CC1)C | C15H23NO3
